US08110687B2
Step 2: N-methyl-4-{[7-({[3-({[(methylamino)acetyl]amino}methyl)-5-(trifluoromethyl)-phenyl]amino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}pyridine-2-carboxamide I-345
To a solution of 4-{[7-({[3-({[(1,3dioxo-1,3-dihydro-2-H-isoindol-2-yl)acetyl]-amino}methyl)-5-(trifluoromethyl)phenyl]amino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]-oxy}-N-methylpyridine-2-carboxamide (0.819 g, 1.19 mmol) in EtOH (20 mL) was added a 40% aqueous solution of methyl amine in water (5.00 mL, 44.8 mmol). The reaction mixture was allowed to stir at rt for 5 h and then concentrated. The residue was purified by column chromatography to give N-methyl-4-{[7-({[3-({[(methylamino)acetyl]amino}-methyl)-5-(trifluoromethyl)phenylamino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}-pyridine-2-carboxamide I-345 (0.124 g, 19%) as a white solid. 1H NMR (400 MHz, d6-DMSO, HCI salt) δ: 10.65 (s, 1H), 9.19-9.09 (br s, 1H), 8.85-8.77 (m, 1H), 8.50 (d, 1H), 8.17-8.02 (m, 2H), 7.66 (s, 1H), 7.41-7.36 (m, 1H), 7.28-7.21 (m, 1H), 7.19-7.14 (m, 1H), 7.04-6.94 (m, 2H), 4.22 (t, 2H), 3.83-3.76 (m, 2H), 3.67 (t, 2H), 3.03-2.81 (m, 5H), 2.77 (d, 3H), 2.17-2.08 (m, 1H), and 1.89-1.75 (m, 1H). LCMS: (FA) ES+543.2, ES−541.2.

reactant | 4-{[7-({[3-({[(1,3dioxo-1,3-dihydro-2-H-isoindol-2-yl)acetyl]-amino}methyl)-5-(trifluoromethyl)phenyl]amino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]-oxy}-N-methylpyridine-2-carboxamide | 1.19 mmol, 0.819 g | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)NCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CCC=2C=CC(=CC2C1)OC1=CC(=NC=C1)C(=O)NC | C36H30F3N5O6
reactant | methyl amine | CN | CH5N
reactant | water | 44.8 mmol, 5.00 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
product | N-methyl-4-{[7-({[3-({[(methylamino)acetyl]amino}methyl)-5-(trifluoromethyl)-phenyl]amino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}pyridine-2-carboxamide | CNC(=O)C1=NC=CC(=C1)OC1=CC=2CC(CCC2C=C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)CNC(CNC)=O | C29H30F3N5O4
